US08710236B2
Step A: 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-methyl-amino}-benzoic Acid Tert-butyl Ester
4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic acid tert-butyl ester (110 mg, 0.19 mmol) was dissolved in 2 mL of HOAc. paraformaldehyde (51 mg, 0.57 mmol) and sodium cyano-borohydride (36 mg, 0.57 mmol) were then added and heated to 40 C for 1 h. Cooled to RT, EtOAc (20 mL) was added and extracted water (20 mL). The organic layer was washed again with water (20 mL), dried over sodium sulfate, filtered and the organic layer was removed under reduced pressure to give a white solid (120 mg, 100%). 1H NMR showed the compound to be very clean and sufficient for the following step. LCMS (M+1=599.4)

reactant | 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic acid tert-butyl ester | 0.19 mmol, 110 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)NC(C(NC1=CC=C(C=C1)I)=O)C1=CC=C(C=C1)C(C)(C)C)=O | C29H33IN2O3
reactant | paraformaldehyde | 0.57 mmol, 51 mg | C=O | CH2O
reactant | sodium cyano-borohydride | 0.57 mmol, 36 mg | C(#N)[BH3-].[Na+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-methyl-amino}-benzoic Acid Tert-butyl Ester | 120 mg, 100% | C(C)(C)(C)OC(C1=CC=C(C=C1)N(C)C(C(NC1=CC=C(C=C1)I)=O)C1=CC=C(C=C1)C(C)(C)C)=O | C30H35IN2O3
